US07268145B2
To 2-(2-((2-(methoxycarbonyl)phenyl)methylthio)benzimidazolyl)acetic acid t-butyl ester (1290 mg, 3.13 mmol), trifluoroacetic acid (15 ml) was added, and stirred at room temperature overnight. After the solvent was evaporated, it was dried under reduced pressure to obtain 2-(2-((2-(methoxycarbonyl)phenyl)methylthio)benzimidazolyl)acetic acid (715 mg, yield 64%).

reactant | 2-(2-((2-(methoxycarbonyl)phenyl)methylthio)benzimidazolyl)acetic acid t-butyl ester | 3.13 mmol, 1290 mg | C(C)(C)(C)OC(CC1=CC=CC=2N=C(NC21)SCC2=C(C=CC=C2)C(=O)OC)=O | C22H24N2O4S
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(2-((2-(methoxycarbonyl)phenyl)methylthio)benzimidazolyl)acetic acid | 715 mg, yield 64% | COC(=O)C1=C(C=CC=C1)CSC=1NC2=C(N1)C=CC=C2CC(=O)O | C18H16N2O4S
